US07479502B2
N-acetyl 5-formyl-6-hydroxy-biphenyl-3,3′-disulfonamide (74 mg, 0.19 mmol) was dissolved in methanol (10 mL)and stirred at room temperature. 3,4-Diaminobenzamidine (39 mg, 0.21 mmol) and 1,4-benzoquinone (20 mg, 0.2 mmol) were added to the solution and the mixture was refluxed for 1 hour. The solvent was removed by rotary evaporation under reduced pressure and the residue was dissolved in water and acetonitrile and purified by reverse phase HPLC (0.02N HCl/ACN) to give 2-(5-acetylsulfarnoyl-2-hydroxy-3′-sulfamoyl-biphenyl-3-yl)-1H-benzoimidazole-5-carboxamidine (14.1 mg) as a yellow amorphous powder. MS m/z: 527.4 (M−H+) and 529.3 (M+H+). 1H NMR (400 MHz, DMSO-d6): δ 9.36 (bs, 2H), 8.94 (bs, 2H), 8.08 (d, J=2.2 Hz, 1H), 8.22 (bs, 1H), 8.10 (t, J=1.5 Hz, 1H), 7.96 (d, J=2.2 Hz, 1H) 7.89 (d, J=1.8 Hz, 1H), 7.87-7.85 (m, 2H), 7.76 )dd, J=10, 1.5 Hz, 1H), 7.71 (t, J=7.7 Hz, 1H), 7.46 (s, 2H) and 1.96 (s, 3H).

reactant | N-acetyl 5-formyl-6-hydroxy-biphenyl-3,3′-disulfonamide | 0.19 mmol, 74 mg | C(C)(=O)NS(=O)(=O)C=1C=C(C(=C(C1)C=O)O)C1=CC(=CC=C1)S(=O)(=O)N | C15H14N2O7S2
reactant | 3,4-Diaminobenzamidine | 0.21 mmol, 39 mg | NC=1C=C(C(=N)N)C=CC1N | C7H10N4
reactant | 1,4-benzoquinone | 0.2 mmol, 20 mg | C1(C=CC(C=C1)=O)=O | C6H4O2
solvent | methanol | 10 mL | CO | CH4O
product | 2-(5-acetylsulfarnoyl-2-hydroxy-3′-sulfamoyl-biphenyl-3-yl)-1H-benzoimidazole-5-carboxamidine | 14.1 mg | C(C)(=O)NS(=O)(=O)C=1C=C(C(=C(C1)C1=CC(=CC=C1)S(N)(=O)=O)O)C1=NC2=C(N1)C=CC(=C2)C(=N)N | C22H20N6O6S2
